US09107957B2
Alternatively, in a 20 ml scintillation vial, Cys-Melittin (0.006 mmol, 1 ml) was reacted with 1.7 molar equivalents TCEP-HCl (0.010 mmol, 100 μl) and left to stir at room temperature for 30 min. MES-Na (400 μl) and water (390 μl) were added in amounts to yield final concentrations of 10 mg/ml Melittin and 20 mM MES-Na. The pH was checked and adjusted to pH 6.5-7. A solution of NAG-PEG8-Maleimide (100 mg/ml) was prepared in dH2O, NAG-PEG8-Maleimide (2 eq, 0.012 mmol, 110 μl) was added, and the solution was left to stir at room temperature for 48 h.

reactant | Cys Melittin | 0.006 mmol, 1 ml | N[C@@H](CS)C(=O)O.CC[C@H](C)[C@@H](C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H]([C@@H](C)O)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N1CCC[C@H]1C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC2=CNC3=C2C=CC=C3)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N)NC(=O)CN
reactant | TCEP-HCl | 0.010 mmol, 100 μl | C(CP(CCC(=O)O)CCC(=O)O)C(=O)O.Cl
solvent | water | 390 μl | O | H2O
product | Melittin | CC[C@H](C)[C@@H](C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H]([C@@H](C)O)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N1CCC[C@H]1C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC2=CNC3=C2C=CC=C3)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N)NC(=O)CN | C131H229N39O31
